.SUBCKT 742792312 1 2 3 
* PART_NUMBER: 742792312
* NOM_L= 0.0H
* IMAX= 3.0A
* MAKE: wUERTH ELEKTRONIK
* DIM: 1210
* SRF: 
* SMD-Ferrit WE-CBF
* DATASHEET: 742792312.pdf
*
* MHz  S  MA  R 50
* Z1=50.000000 Z2=50.000000

R1N 1 10 -5.000000e+001
R1P 10 11 1.000000e+002
R2N 2 20 -5.000000e+001
R2P 20 21 1.000000e+002

*S11 FREQ DB PHASE
E11 11 12 FREQ {V(10,3)}=
+( 1.000000e+006,-3.647817e+001, 8.808100e+001)
+( 1.078972e+006,-3.591760e+001, 8.792900e+001)
+( 1.164181e+006,-3.539102e+001, 8.776600e+001)
+( 1.256119e+006,-3.489455e+001, 8.759000e+001)
+( 1.355318e+006,-3.397940e+001, 8.740000e+001)
+( 1.462351e+006,-3.355561e+001, 8.719500e+001)
+( 1.577836e+006,-3.276544e+001, 8.697400e+001)
+( 1.702441e+006,-3.204120e+001, 8.673500e+001)
+( 1.836887e+006,-3.137272e+001, 8.647800e+001)
+( 1.981950e+006,-3.075204e+001, 8.620000e+001)
+( 2.138469e+006,-3.017277e+001, 8.590100e+001)
+( 2.307349e+006,-2.937042e+001, 8.557900e+001)
+( 2.489566e+006,-2.887395e+001, 8.523100e+001)
+( 2.686173e+006,-2.817871e+001, 8.485700e+001)
+( 2.898306e+006,-2.753501e+001, 8.445300e+001)
+( 3.127192e+006,-2.693575e+001, 8.401800e+001)
+( 3.374153e+006,-2.619608e+001, 8.354900e+001)
+( 3.640618e+006,-2.551448e+001, 8.304500e+001)
+( 3.928126e+006,-2.488250e+001, 8.250200e+001)
+( 4.238339e+006,-2.429340e+001, 8.191700e+001)
+( 4.573051e+006,-2.360912e+001, 8.128800e+001)
+( 4.934195e+006,-2.297483e+001, 8.061200e+001)
+( 5.323860e+006,-2.238373e+001, 7.988500e+001)
+( 5.744297e+006,-2.172372e+001, 7.910500e+001)
+( 6.197938e+006,-2.111035e+001, 7.826700e+001)
+( 6.687403e+006,-2.044553e+001, 7.736900e+001)
+( 7.215523e+006,-1.982800e+001, 7.640800e+001)
+( 7.785349e+006,-1.917215e+001, 7.537800e+001)
+( 8.400176e+006,-1.856236e+001, 7.427900e+001)
+( 9.063558e+006,-1.799259e+001, 7.310600e+001)
+( 9.779328e+006,-1.739332e+001, 7.185600e+001)
+( 1.055162e+007,-1.677264e+001, 7.052700e+001)
+( 1.138491e+007,-1.619337e+001, 6.911700e+001)
+( 1.228400e+007,-1.559784e+001, 6.762600e+001)
+( 1.325410e+007,-1.504053e+001, 6.605100e+001)
+( 1.430081e+007,-1.451684e+001, 6.439400e+001)
+( 1.543017e+007,-1.397940e+001, 6.265600e+001)
+( 1.664873e+007,-1.347328e+001, 6.084000e+001)
+( 1.796352e+007,-1.299504e+001, 5.895100e+001)
+( 1.938214e+007,-1.250503e+001, 5.699200e+001)
+( 2.091279e+007,-1.204120e+001, 5.497300e+001)
+( 2.256432e+007,-1.163397e+001, 5.290000e+001)
+( 2.434628e+007,-1.121335e+001, 5.078300e+001)
+( 2.626896e+007,-1.084236e+001, 4.863400e+001)
+( 2.834348e+007,-1.045757e+001, 4.646400e+001)
+( 3.058183e+007,-1.014479e+001, 4.428500e+001)
+( 3.299695e+007,-9.815950e+000, 4.211000e+001)
+( 3.560280e+007,-9.551115e+000, 3.995100e+001)
+( 3.841443e+007,-9.268831e+000, 3.782000e+001)
+( 4.144811e+007,-9.044506e+000, 3.572800e+001)
+( 4.472136e+007,-8.825829e+000, 3.368600e+001)
+( 4.825311e+007,-8.635966e+000, 3.170200e+001)
+( 5.206377e+007,-8.450164e+000, 2.978400e+001)
+( 5.617536e+007,-8.313376e+000, 2.793700e+001)
+( 6.061166e+007,-8.178708e+000, 2.616700e+001)
+( 6.539831e+007,-8.046096e+000, 2.447600e+001)
+( 7.056296e+007,-7.937113e+000, 2.286700e+001)
+( 7.613548e+007,-7.850900e+000, 2.134000e+001)
+( 8.214808e+007,-7.765534e+000, 1.989500e+001)
+( 8.863550e+007,-7.702056e+000, 1.853100e+001)
+( 9.563525e+007,-7.639038e+000, 1.724600e+001)
+( 1.031878e+008,-7.576474e+000, 1.603800e+001)
+( 1.113368e+008,-7.535014e+000, 1.490400e+001)
+( 1.201293e+008,-7.493751e+000, 1.384200e+001)
+( 1.296162e+008,-7.452683e+000, 1.284700e+001)
+( 1.398523e+008,-7.411808e+000, 1.191600e+001)
+( 1.508967e+008,-7.391442e+000, 1.104600e+001)
+( 1.628134e+008,-7.371125e+000, 1.023400e+001)
+( 1.756711e+008,-7.350854e+000, 9.476000e+000)
+( 1.895443e+008,-7.330631e+000, 8.768000e+000)
+( 2.045130e+008,-7.310455e+000, 8.108000e+000)
+( 2.206639e+008,-7.310455e+000, 7.492000e+000)
+( 2.380902e+008,-7.290325e+000, 6.917000e+000)
+( 2.568928e+008,-7.290325e+000, 6.380000e+000)
+( 2.771802e+008,-7.270242e+000, 5.879000e+000)
+( 2.990698e+008,-7.270242e+000, 5.411000e+000)
+( 3.226880e+008,-7.270242e+000, 4.973000e+000)
+( 3.481714e+008,-7.250205e+000, 4.563000e+000)
+( 3.756673e+008,-7.250205e+000, 4.179000e+000)
+( 4.053346e+008,-7.250205e+000, 3.819000e+000)
+( 4.373448e+008,-7.250205e+000, 3.481000e+000)
+( 4.718830e+008,-7.250205e+000, 3.162000e+000)
+( 5.091487e+008,-7.250205e+000, 2.862000e+000)
+( 5.493573e+008,-7.230215e+000, 2.577000e+000)
+( 5.927413e+008,-7.230215e+000, 2.308000e+000)
+( 6.395515e+008,-7.230215e+000, 2.052000e+000)
+( 6.900583e+008,-7.230215e+000, 1.807000e+000)
+( 7.445538e+008,-7.230215e+000, 1.573000e+000)
+( 8.033530e+008,-7.230215e+000, 1.348000e+000)
+( 8.667956e+008,-7.230215e+000, 1.131000e+000)
+( 9.352484e+008,-7.230215e+000, 9.200000e-001)
+( 1.009107e+009,-7.230215e+000, 7.150000e-001)
+( 1.088799e+009,-7.230215e+000, 5.130000e-001)
+( 1.174784e+009,-7.230215e+000, 3.150000e-001)
+( 1.267559e+009,-7.230215e+000, 1.180000e-001)
+( 1.367661e+009,-7.230215e+000,-7.800000e-002)
+( 1.475668e+009,-7.230215e+000,-2.740000e-001)
+( 1.592205e+009,-7.230215e+000,-4.720000e-001)
+( 1.717946e+009,-7.230215e+000,-6.730000e-001)
+( 1.853616e+009,-7.230215e+000,-8.770000e-001)
+( 2.000000e+009,-7.230215e+000,-1.087000e+000)

*S12 FREQ DB PHASE
E12 12 3 FREQ {V(20,3)}=
+( 1.000000e+006, 0.000000e+000,-8.350000e-001)
+( 1.078972e+006, 0.000000e+000,-9.000000e-001)
+( 1.164181e+006,-8.690235e-003,-9.710000e-001)
+( 1.256119e+006,-8.690235e-003,-1.048000e+000)
+( 1.355318e+006,-8.690235e-003,-1.130000e+000)
+( 1.462351e+006,-8.690235e-003,-1.220000e+000)
+( 1.577836e+006,-8.690235e-003,-1.316000e+000)
+( 1.702441e+006,-8.690235e-003,-1.419000e+000)
+( 1.836887e+006,-8.690235e-003,-1.531000e+000)
+( 1.981950e+006,-8.690235e-003,-1.651000e+000)
+( 2.138469e+006,-1.738917e-002,-1.780000e+000)
+( 2.307349e+006,-1.738917e-002,-1.920000e+000)
+( 2.489566e+006,-1.738917e-002,-2.070000e+000)
+( 2.686173e+006,-2.609683e-002,-2.232000e+000)
+( 2.898306e+006,-2.609683e-002,-2.406000e+000)
+( 3.127192e+006,-3.481323e-002,-2.594000e+000)
+( 3.374153e+006,-3.481323e-002,-2.796000e+000)
+( 3.640618e+006,-4.353839e-002,-3.013000e+000)
+( 3.928126e+006,-5.227231e-002,-3.246000e+000)
+( 4.238339e+006,-6.101503e-002,-3.496000e+000)
+( 4.573051e+006,-6.976656e-002,-3.764000e+000)
+( 4.934195e+006,-7.852691e-002,-4.052000e+000)
+( 5.323860e+006,-9.607417e-002,-4.360000e+000)
+( 5.744297e+006,-1.048611e-001,-4.689000e+000)
+( 6.197938e+006,-1.224617e-001,-5.040000e+000)
+( 6.687403e+006,-1.400980e-001,-5.415000e+000)
+( 7.215523e+006,-1.666199e-001,-5.814000e+000)
+( 7.785349e+006,-1.932229e-001,-6.237000e+000)
+( 8.400176e+006,-2.199077e-001,-6.685000e+000)
+( 9.063558e+006,-2.556154e-001,-7.158000e+000)
+( 9.779328e+006,-3.004575e-001,-7.655000e+000)
+( 1.055162e+007,-3.455322e-001,-8.176000e+000)
+( 1.138491e+007,-3.908422e-001,-8.719000e+000)
+( 1.228400e+007,-4.546758e-001,-9.282000e+000)
+( 1.325410e+007,-5.189819e-001,-9.862000e+000)
+( 1.430081e+007,-5.930625e-001,-1.045600e+001)
+( 1.543017e+007,-6.771653e-001,-1.105800e+001)
+( 1.664873e+007,-7.620905e-001,-1.166300e+001)
+( 1.796352e+007,-8.670284e-001,-1.226500e+001)
+( 1.938214e+007,-9.829708e-001,-1.285400e+001)
+( 2.091279e+007,-1.100482e+000,-1.342400e+001)
+( 2.256432e+007,-1.239618e+000,-1.396400e+001)
+( 2.434628e+007,-1.381019e+000,-1.446500e+001)
+( 2.626896e+007,-1.535120e+000,-1.491600e+001)
+( 2.834348e+007,-1.692003e+000,-1.530900e+001)
+( 3.058183e+007,-1.862529e+000,-1.563300e+001)
+( 3.299695e+007,-2.036470e+000,-1.588300e+001)
+( 3.560280e+007,-2.213966e+000,-1.605000e+001)
+( 3.841443e+007,-2.406616e+000,-1.613200e+001)
+( 4.144811e+007,-2.580224e+000,-1.612500e+001)
+( 4.472136e+007,-2.769312e+000,-1.603000e+001)
+( 4.825311e+007,-2.950400e+000,-1.584900e+001)
+( 5.206377e+007,-3.122892e+000,-1.558700e+001)
+( 5.617536e+007,-3.286189e+000,-1.525000e+001)
+( 6.061166e+007,-3.452615e+000,-1.484600e+001)
+( 6.539831e+007,-3.609121e+000,-1.438400e+001)
+( 7.056296e+007,-3.741733e+000,-1.387300e+001)
+( 7.613548e+007,-3.876401e+000,-1.332500e+001)
+( 8.214808e+007,-3.999413e+000,-1.274700e+001)
+( 8.863550e+007,-4.110239e+000,-1.215000e+001)
+( 9.563525e+007,-4.208386e+000,-1.154100e+001)
+( 1.031878e+008,-4.307654e+000,-1.093000e+001)
+( 1.113368e+008,-4.379261e+000,-1.032100e+001)
+( 1.201293e+008,-4.465976e+000,-9.721000e+000)
+( 1.296162e+008,-4.524271e+000,-9.135000e+000)
+( 1.398523e+008,-4.582960e+000,-8.565000e+000)
+( 1.508967e+008,-4.627238e+000,-8.016000e+000)
+( 1.628134e+008,-4.671743e+000,-7.488000e+000)
+( 1.756711e+008,-4.716477e+000,-6.983000e+000)
+( 1.895443e+008,-4.746429e+000,-6.502000e+000)
+( 2.045130e+008,-4.776484e+000,-6.045000e+000)
+( 2.206639e+008,-4.806643e+000,-5.611000e+000)
+( 2.380902e+008,-4.821762e+000,-5.202000e+000)
+( 2.568928e+008,-4.852079e+000,-4.815000e+000)
+( 2.771802e+008,-4.867278e+000,-4.450000e+000)
+( 2.990698e+008,-4.882503e+000,-4.106000e+000)
+( 3.226880e+008,-4.897755e+000,-3.783000e+000)
+( 3.481714e+008,-4.897755e+000,-3.478000e+000)
+( 3.756673e+008,-4.913033e+000,-3.190000e+000)
+( 4.053346e+008,-4.913033e+000,-2.920000e+000)
+( 4.373448e+008,-4.928339e+000,-2.664000e+000)
+( 4.718830e+008,-4.928339e+000,-2.423000e+000)
+( 5.091487e+008,-4.943671e+000,-2.194000e+000)
+( 5.493573e+008,-4.943671e+000,-1.978000e+000)
+( 5.927413e+008,-4.943671e+000,-1.772000e+000)
+( 6.395515e+008,-4.943671e+000,-1.577000e+000)
+( 6.900583e+008,-4.943671e+000,-1.389000e+000)
+( 7.445538e+008,-4.959031e+000,-1.210000e+000)
+( 8.033530e+008,-4.959031e+000,-1.037000e+000)
+( 8.667956e+008,-4.959031e+000,-8.700000e-001)
+( 9.352484e+008,-4.959031e+000,-7.080000e-001)
+( 1.009107e+009,-4.959031e+000,-5.500000e-001)
+( 1.088799e+009,-4.959031e+000,-3.950000e-001)
+( 1.174784e+009,-4.959031e+000,-2.420000e-001)
+( 1.267559e+009,-4.959031e+000,-9.100000e-002)
+( 1.367661e+009,-4.959031e+000, 6.000000e-002)
+( 1.475668e+009,-4.959031e+000, 2.110000e-001)
+( 1.592205e+009,-4.959031e+000, 3.630000e-001)
+( 1.717946e+009,-4.959031e+000, 5.180000e-001)
+( 1.853616e+009,-4.959031e+000, 6.750000e-001)
+( 2.000000e+009,-4.959031e+000, 8.360000e-001)

*S21 FREQ DB PHASE
E21 21 22 FREQ {V(10,3)}=
+( 1.000000e+006, 0.000000e+000,-8.350000e-001)
+( 1.078972e+006, 0.000000e+000,-9.000000e-001)
+( 1.164181e+006,-8.690235e-003,-9.710000e-001)
+( 1.256119e+006,-8.690235e-003,-1.048000e+000)
+( 1.355318e+006,-8.690235e-003,-1.130000e+000)
+( 1.462351e+006,-8.690235e-003,-1.220000e+000)
+( 1.577836e+006,-8.690235e-003,-1.316000e+000)
+( 1.702441e+006,-8.690235e-003,-1.419000e+000)
+( 1.836887e+006,-8.690235e-003,-1.531000e+000)
+( 1.981950e+006,-8.690235e-003,-1.651000e+000)
+( 2.138469e+006,-1.738917e-002,-1.780000e+000)
+( 2.307349e+006,-1.738917e-002,-1.920000e+000)
+( 2.489566e+006,-1.738917e-002,-2.070000e+000)
+( 2.686173e+006,-2.609683e-002,-2.232000e+000)
+( 2.898306e+006,-2.609683e-002,-2.406000e+000)
+( 3.127192e+006,-3.481323e-002,-2.594000e+000)
+( 3.374153e+006,-3.481323e-002,-2.796000e+000)
+( 3.640618e+006,-4.353839e-002,-3.013000e+000)
+( 3.928126e+006,-5.227231e-002,-3.246000e+000)
+( 4.238339e+006,-6.101503e-002,-3.496000e+000)
+( 4.573051e+006,-6.976656e-002,-3.764000e+000)
+( 4.934195e+006,-7.852691e-002,-4.052000e+000)
+( 5.323860e+006,-9.607417e-002,-4.360000e+000)
+( 5.744297e+006,-1.048611e-001,-4.689000e+000)
+( 6.197938e+006,-1.224617e-001,-5.040000e+000)
+( 6.687403e+006,-1.400980e-001,-5.415000e+000)
+( 7.215523e+006,-1.666199e-001,-5.814000e+000)
+( 7.785349e+006,-1.932229e-001,-6.237000e+000)
+( 8.400176e+006,-2.199077e-001,-6.685000e+000)
+( 9.063558e+006,-2.556154e-001,-7.158000e+000)
+( 9.779328e+006,-3.004575e-001,-7.655000e+000)
+( 1.055162e+007,-3.455322e-001,-8.176000e+000)
+( 1.138491e+007,-3.908422e-001,-8.719000e+000)
+( 1.228400e+007,-4.546758e-001,-9.282000e+000)
+( 1.325410e+007,-5.189819e-001,-9.862000e+000)
+( 1.430081e+007,-5.930625e-001,-1.045600e+001)
+( 1.543017e+007,-6.771653e-001,-1.105800e+001)
+( 1.664873e+007,-7.620905e-001,-1.166300e+001)
+( 1.796352e+007,-8.670284e-001,-1.226500e+001)
+( 1.938214e+007,-9.829708e-001,-1.285400e+001)
+( 2.091279e+007,-1.100482e+000,-1.342400e+001)
+( 2.256432e+007,-1.239618e+000,-1.396400e+001)
+( 2.434628e+007,-1.381019e+000,-1.446500e+001)
+( 2.626896e+007,-1.535120e+000,-1.491600e+001)
+( 2.834348e+007,-1.692003e+000,-1.530900e+001)
+( 3.058183e+007,-1.862529e+000,-1.563300e+001)
+( 3.299695e+007,-2.036470e+000,-1.588300e+001)
+( 3.560280e+007,-2.213966e+000,-1.605000e+001)
+( 3.841443e+007,-2.406616e+000,-1.613200e+001)
+( 4.144811e+007,-2.580224e+000,-1.612500e+001)
+( 4.472136e+007,-2.769312e+000,-1.603000e+001)
+( 4.825311e+007,-2.950400e+000,-1.584900e+001)
+( 5.206377e+007,-3.122892e+000,-1.558700e+001)
+( 5.617536e+007,-3.286189e+000,-1.525000e+001)
+( 6.061166e+007,-3.452615e+000,-1.484600e+001)
+( 6.539831e+007,-3.609121e+000,-1.438400e+001)
+( 7.056296e+007,-3.741733e+000,-1.387300e+001)
+( 7.613548e+007,-3.876401e+000,-1.332500e+001)
+( 8.214808e+007,-3.999413e+000,-1.274700e+001)
+( 8.863550e+007,-4.110239e+000,-1.215000e+001)
+( 9.563525e+007,-4.208386e+000,-1.154100e+001)
+( 1.031878e+008,-4.307654e+000,-1.093000e+001)
+( 1.113368e+008,-4.379261e+000,-1.032100e+001)
+( 1.201293e+008,-4.465976e+000,-9.721000e+000)
+( 1.296162e+008,-4.524271e+000,-9.135000e+000)
+( 1.398523e+008,-4.582960e+000,-8.565000e+000)
+( 1.508967e+008,-4.627238e+000,-8.016000e+000)
+( 1.628134e+008,-4.671743e+000,-7.488000e+000)
+( 1.756711e+008,-4.716477e+000,-6.983000e+000)
+( 1.895443e+008,-4.746429e+000,-6.502000e+000)
+( 2.045130e+008,-4.776484e+000,-6.045000e+000)
+( 2.206639e+008,-4.806643e+000,-5.611000e+000)
+( 2.380902e+008,-4.821762e+000,-5.202000e+000)
+( 2.568928e+008,-4.852079e+000,-4.815000e+000)
+( 2.771802e+008,-4.867278e+000,-4.450000e+000)
+( 2.990698e+008,-4.882503e+000,-4.106000e+000)
+( 3.226880e+008,-4.897755e+000,-3.783000e+000)
+( 3.481714e+008,-4.897755e+000,-3.478000e+000)
+( 3.756673e+008,-4.913033e+000,-3.190000e+000)
+( 4.053346e+008,-4.913033e+000,-2.920000e+000)
+( 4.373448e+008,-4.928339e+000,-2.664000e+000)
+( 4.718830e+008,-4.928339e+000,-2.423000e+000)
+( 5.091487e+008,-4.943671e+000,-2.194000e+000)
+( 5.493573e+008,-4.943671e+000,-1.978000e+000)
+( 5.927413e+008,-4.943671e+000,-1.772000e+000)
+( 6.395515e+008,-4.943671e+000,-1.577000e+000)
+( 6.900583e+008,-4.943671e+000,-1.389000e+000)
+( 7.445538e+008,-4.959031e+000,-1.210000e+000)
+( 8.033530e+008,-4.959031e+000,-1.037000e+000)
+( 8.667956e+008,-4.959031e+000,-8.700000e-001)
+( 9.352484e+008,-4.959031e+000,-7.080000e-001)
+( 1.009107e+009,-4.959031e+000,-5.500000e-001)
+( 1.088799e+009,-4.959031e+000,-3.950000e-001)
+( 1.174784e+009,-4.959031e+000,-2.420000e-001)
+( 1.267559e+009,-4.959031e+000,-9.100000e-002)
+( 1.367661e+009,-4.959031e+000, 6.000000e-002)
+( 1.475668e+009,-4.959031e+000, 2.110000e-001)
+( 1.592205e+009,-4.959031e+000, 3.630000e-001)
+( 1.717946e+009,-4.959031e+000, 5.180000e-001)
+( 1.853616e+009,-4.959031e+000, 6.750000e-001)
+( 2.000000e+009,-4.959031e+000, 8.360000e-001)

*S22 FREQ DB PHASE
E22 22 3 FREQ {V(20,3)}=
+( 1.000000e+006,-3.647817e+001, 8.808100e+001)
+( 1.078972e+006,-3.591760e+001, 8.792900e+001)
+( 1.164181e+006,-3.539102e+001, 8.776600e+001)
+( 1.256119e+006,-3.489455e+001, 8.759000e+001)
+( 1.355318e+006,-3.397940e+001, 8.740000e+001)
+( 1.462351e+006,-3.355561e+001, 8.719500e+001)
+( 1.577836e+006,-3.276544e+001, 8.697400e+001)
+( 1.702441e+006,-3.204120e+001, 8.673500e+001)
+( 1.836887e+006,-3.137272e+001, 8.647800e+001)
+( 1.981950e+006,-3.075204e+001, 8.620000e+001)
+( 2.138469e+006,-3.017277e+001, 8.590100e+001)
+( 2.307349e+006,-2.937042e+001, 8.557900e+001)
+( 2.489566e+006,-2.887395e+001, 8.523100e+001)
+( 2.686173e+006,-2.817871e+001, 8.485700e+001)
+( 2.898306e+006,-2.753501e+001, 8.445300e+001)
+( 3.127192e+006,-2.693575e+001, 8.401800e+001)
+( 3.374153e+006,-2.619608e+001, 8.354900e+001)
+( 3.640618e+006,-2.551448e+001, 8.304500e+001)
+( 3.928126e+006,-2.488250e+001, 8.250200e+001)
+( 4.238339e+006,-2.429340e+001, 8.191700e+001)
+( 4.573051e+006,-2.360912e+001, 8.128800e+001)
+( 4.934195e+006,-2.297483e+001, 8.061200e+001)
+( 5.323860e+006,-2.238373e+001, 7.988500e+001)
+( 5.744297e+006,-2.172372e+001, 7.910500e+001)
+( 6.197938e+006,-2.111035e+001, 7.826700e+001)
+( 6.687403e+006,-2.044553e+001, 7.736900e+001)
+( 7.215523e+006,-1.982800e+001, 7.640800e+001)
+( 7.785349e+006,-1.917215e+001, 7.537800e+001)
+( 8.400176e+006,-1.856236e+001, 7.427900e+001)
+( 9.063558e+006,-1.799259e+001, 7.310600e+001)
+( 9.779328e+006,-1.739332e+001, 7.185600e+001)
+( 1.055162e+007,-1.677264e+001, 7.052700e+001)
+( 1.138491e+007,-1.619337e+001, 6.911700e+001)
+( 1.228400e+007,-1.559784e+001, 6.762600e+001)
+( 1.325410e+007,-1.504053e+001, 6.605100e+001)
+( 1.430081e+007,-1.451684e+001, 6.439400e+001)
+( 1.543017e+007,-1.397940e+001, 6.265600e+001)
+( 1.664873e+007,-1.347328e+001, 6.084000e+001)
+( 1.796352e+007,-1.299504e+001, 5.895100e+001)
+( 1.938214e+007,-1.250503e+001, 5.699200e+001)
+( 2.091279e+007,-1.204120e+001, 5.497300e+001)
+( 2.256432e+007,-1.163397e+001, 5.290000e+001)
+( 2.434628e+007,-1.121335e+001, 5.078300e+001)
+( 2.626896e+007,-1.084236e+001, 4.863400e+001)
+( 2.834348e+007,-1.045757e+001, 4.646400e+001)
+( 3.058183e+007,-1.014479e+001, 4.428500e+001)
+( 3.299695e+007,-9.815950e+000, 4.211000e+001)
+( 3.560280e+007,-9.551115e+000, 3.995100e+001)
+( 3.841443e+007,-9.268831e+000, 3.782000e+001)
+( 4.144811e+007,-9.044506e+000, 3.572800e+001)
+( 4.472136e+007,-8.825829e+000, 3.368600e+001)
+( 4.825311e+007,-8.635966e+000, 3.170200e+001)
+( 5.206377e+007,-8.450164e+000, 2.978400e+001)
+( 5.617536e+007,-8.313376e+000, 2.793700e+001)
+( 6.061166e+007,-8.178708e+000, 2.616700e+001)
+( 6.539831e+007,-8.046096e+000, 2.447600e+001)
+( 7.056296e+007,-7.937113e+000, 2.286700e+001)
+( 7.613548e+007,-7.850900e+000, 2.134000e+001)
+( 8.214808e+007,-7.765534e+000, 1.989500e+001)
+( 8.863550e+007,-7.702056e+000, 1.853100e+001)
+( 9.563525e+007,-7.639038e+000, 1.724600e+001)
+( 1.031878e+008,-7.576474e+000, 1.603800e+001)
+( 1.113368e+008,-7.535014e+000, 1.490400e+001)
+( 1.201293e+008,-7.493751e+000, 1.384200e+001)
+( 1.296162e+008,-7.452683e+000, 1.284700e+001)
+( 1.398523e+008,-7.411808e+000, 1.191600e+001)
+( 1.508967e+008,-7.391442e+000, 1.104600e+001)
+( 1.628134e+008,-7.371125e+000, 1.023400e+001)
+( 1.756711e+008,-7.350854e+000, 9.476000e+000)
+( 1.895443e+008,-7.330631e+000, 8.768000e+000)
+( 2.045130e+008,-7.310455e+000, 8.108000e+000)
+( 2.206639e+008,-7.310455e+000, 7.492000e+000)
+( 2.380902e+008,-7.290325e+000, 6.917000e+000)
+( 2.568928e+008,-7.290325e+000, 6.380000e+000)
+( 2.771802e+008,-7.270242e+000, 5.879000e+000)
+( 2.990698e+008,-7.270242e+000, 5.411000e+000)
+( 3.226880e+008,-7.270242e+000, 4.973000e+000)
+( 3.481714e+008,-7.250205e+000, 4.563000e+000)
+( 3.756673e+008,-7.250205e+000, 4.179000e+000)
+( 4.053346e+008,-7.250205e+000, 3.819000e+000)
+( 4.373448e+008,-7.250205e+000, 3.481000e+000)
+( 4.718830e+008,-7.250205e+000, 3.162000e+000)
+( 5.091487e+008,-7.250205e+000, 2.862000e+000)
+( 5.493573e+008,-7.230215e+000, 2.577000e+000)
+( 5.927413e+008,-7.230215e+000, 2.308000e+000)
+( 6.395515e+008,-7.230215e+000, 2.052000e+000)
+( 6.900583e+008,-7.230215e+000, 1.807000e+000)
+( 7.445538e+008,-7.230215e+000, 1.573000e+000)
+( 8.033530e+008,-7.230215e+000, 1.348000e+000)
+( 8.667956e+008,-7.230215e+000, 1.131000e+000)
+( 9.352484e+008,-7.230215e+000, 9.200000e-001)
+( 1.009107e+009,-7.230215e+000, 7.150000e-001)
+( 1.088799e+009,-7.230215e+000, 5.130000e-001)
+( 1.174784e+009,-7.230215e+000, 3.150000e-001)
+( 1.267559e+009,-7.230215e+000, 1.180000e-001)
+( 1.367661e+009,-7.230215e+000,-7.800000e-002)
+( 1.475668e+009,-7.230215e+000,-2.740000e-001)
+( 1.592205e+009,-7.230215e+000,-4.720000e-001)
+( 1.717946e+009,-7.230215e+000,-6.730000e-001)
+( 1.853616e+009,-7.230215e+000,-8.770000e-001)
+( 2.000000e+009,-7.230215e+000,-1.087000e+000)

.ENDS
